US04877793
Ethyl 3-ethoxy-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylate (3 g) and a saturated solution of ammonia in ethanol (70 ml) were stirred together in a sealed stainless steel pressure vessel at 130° for 24 hours. After allowing to cool to ambient temperature the mixture was filtered and the solid was dried to give the novel compound 3-ethoxy-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide, m.p. 286°-287°.

reactant | Ethyl 3-ethoxy-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylate | 3 g | C(C)OC1=CSC2=C1N(C=C(C2=O)C(=O)OCC)C | C13H15NO4S
reactant | ammonia | N | H3N
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 3-ethoxy-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | C(C)OC1=CSC2=C1N(C=C(C2=O)C(=O)N)C | C11H12N2O3S
